US03984412
6-Chloro-4-[[3-(dimethylamino)propyl]amino]-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester is treated with ammonia according to the procedure of Example 1 c and 6-amino-4-[[3-(dimethylamino)propyl]amino]-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester, hydrochloride is obtained, m.p. 182° (dec.), (methanol). The aqueous solution of this hydrochloride is made alkaline with sodium hydroxide and extracted with ether to obtain the free base, m.p. 52°-53° (methanol).

reactant | 6-Chloro-4-[[3-(dimethylamino)propyl]amino]-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | ClC1=C(C(=C(C(=N1)C)C(=O)OCC)NCCCN(C)C)[N+](=O)[O-] | C14H21ClN4O4
reactant | ammonia | N | H3N
product | 6-amino-4-[[3-(dimethylamino)propyl]amino]-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester, hydrochloride | Cl.NC1=C(C(=C(C(=N1)C)C(=O)OCC)NCCCN(C)C)[N+](=O)[O-] | InChI=1S/C14H23N5O4.ClH/c1-5-23-14(20)10-9(2)17-13(15)12(19(21)22)11(10)16-7-6-8-18(3)4;/h5-8H2,1-4H3,(H3,15,16,17);1H
